US08809363B2
To a stirred solution of [4-(2-Allyloxy-4-methyl-phenyl)-2-methyl-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-b]pyridin-3-yl]-oxo-acetic acid ethyl ester hydrochloride (1.1 g, 2.56 mmols) in ethanol (20 mL) was added sodium borohydride (145 mg, 1.5 eq, 3.84 mmols), and the reaction was stirred at room temperature for 5 minutes. The reaction was concentrated in vacuo, and the residue was partitioned between ethyl acetate (20 mL) and hydrochloric acid (aqueous, 1 N, 30 mL). The organics were separated, washed with brine (10 mL), dried (MgSO4), filtered and concentrated in vacuo to give crude [4-(2-allyloxy-4-methyl-phenyl)-2-methyl-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-b]pyridin-3-yl]-hydroxy-acetic acid ethyl ester as a pale orange gum 1.1 g (91% yield). LCMS (2 min acidic) 1.53 min 52-81% pure by UV, ES+/AP+ 452. HNMR (CDCl3)>80% pure 7.02 (d, J=7.4 Hz, 1H) 6.81-6.85 (m, 1H) 6.79 (s, 1H) 5.86 (m, 1H) 5.18 (s, 1H) 5.08-5.17 (m, 2H) 4.47-4.51 (m, 2H) 4.08-4.22 (m, 2H) 2.81 (t, J=6.2 Hz, 2H) 2.63 (s, 3H) 2.43 (s, 3H) 1.71-1.87 (m, 4H) 1.53-1.64 (m, 2H) 1.17-1.21 (m, 3H).

reactant | [4-(2-Allyloxy-4-methyl-phenyl)-2-methyl-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-b]pyridin-3-yl]-oxo-acetic acid ethyl ester hydrochloride | 2.56 mmols, 1.1 g | Cl.C(C)OC(C(=O)C=1C(=C2C(=NC1C)SC1=C2CCCC1)C1=C(C=C(C=C1)C)OCC=C)=O
reactant | sodium borohydride | 3.84 mmols, 145 mg, 1.5 eq | [BH4-].[Na+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | [4-(2-allyloxy-4-methyl-phenyl)-2-methyl-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-b]pyridin-3-yl]-hydroxy-acetic acid ethyl ester | 1.1 g, 91% yield | C(C)OC(C(O)C=1C(=C2C(=NC1C)SC1=C2CCCC1)C1=C(C=C(C=C1)C)OCC=C)=O | C26H29NO4S
